US05958942
ii) Synthesis of 2-methyl-5-chloromethylimidazo[1,2-a]pyridine-hydrochloride
To a mixture solution consisting of 12.0 ml (150.0 mmol) of thionyl chloride and 25 ml of methylene chloride was added, 4.87 g (30.0 mmol) of 2-methyl-5-hydroxymethylimidazo[1,2-a]pyridine with small portions. The reaction mixture was stirred for one hour at room temperature, then the solvent and excess volume of thionyl chloride were distilled off under reduced pressure to leave a white solid matter. To the solid was added 50 ml of toluene, and the mixture was stirred sufficiently, followed by distilling off the solvent under reduced pressure. This process was repeated twice to give 6.46 g (99.0%, white solid) of a crude product.

reactant | thionyl chloride | 150.0 mmol, 12.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | 2-methyl-5-hydroxymethylimidazo[1,2-a]pyridine | 30.0 mmol, 4.87 g | CC=1N=C2N(C(=CC=C2)CO)C1 | C9H10N2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-5-chloromethylimidazo[1,2-a]pyridine-hydrochloride | Cl.CC=1N=C2N(C(=CC=C2)CCl)C1 | InChI=1S/C9H9ClN2.ClH/c1-7-6-12-8(5-10)3-2-4-9(12)11-7;/h2-4,6H,5H2,1H3;1H
